US07763732B2
Oxalyl chloride (4.95 g, 39.0 mmol) was added dropwise to a mixture of 7-chloro-1-(cyclohexyl)methyl-1H-indole-3-carboxylic acid (6.4 g, 21.9 mmol) and dichloromethane (150 ml) under ice-water cooling and the resulting mixture was stirred at room temperate for 20 h. Dichloromethane and excess oxalyl chloride were removed by evaporation and the obtained residue was mixed with dichloromethane (100 ml). Aqueous ammonia (33%, 50 ml) and potassium carbonate (6.05 g, 43.8 mmol) was added into the mixture under ice-water bath cooling. After stirring at room temperature for 2 h, the reaction mixture was concentrated in vacuo, then the obtained solid was washed with water, then n-heptane, and dried under reduced pressure to afford 7-chloro-1-(cyclohexyl)methyl-1H-indole-3-carboxylic acid amide (6.4 g, 22.0 mmol).

reactant | Oxalyl chloride | 39.0 mmol, 4.95 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 7-chloro-1-(cyclohexyl)methyl-1H-indole-3-carboxylic acid | 21.9 mmol, 6.4 g | ClC=1C=CC=C2C(=CN(C12)CC1CCCCC1)C(=O)O | C16H18ClNO2
reactant | ammonia | 50 ml | N | H3N
reactant | potassium carbonate | 43.8 mmol, 6.05 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 7-chloro-1-(cyclohexyl)methyl-1H-indole-3-carboxylic acid amide | 22.0 mmol, 6.4 g | ClC=1C=CC=C2C(=CN(C12)CC1CCCCC1)C(=O)N | C16H19ClN2O
